US04433152
A mixture of 6.7 g of bis-(o-methylphenyl)sulfite prepared from o-methylphenol and thionyl chloride, 4 g of 1-amidino-4-piperidinepropionic acid hydrochloride was stirred at room temperature for 24 hours in a solution of 20 ml of dry dimethylformamide and 6 ml of dry pyridine. The solvent was removed under reduced pressure, and 50 ml of ethyl acetate and 20 ml of ether were added to the residue to give crystals. The crystals were recrystallized in turn from isopropanol-ether, methanol-ether and water to obtain 2.1 g (yield: 38%) of o-methylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 184° to 185.5° C.

reactant | bis-(o-methylphenyl)sulfite | 6.7 g | CC1=C(C=CC=C1)OS(=O)OC1=C(C=CC=C1)C | C14H14O3S
reactant | o-methylphenol | CC1=C(C=CC=C1)O | C7H8O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | o-methylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 2.1 g, yield: 38% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)C | InChI=1S/C16H23N3O2.ClH/c1-12-4-2-3-5-14(12)21-15(20)7-6-13-8-10-19(11-9-13)16(17)18;/h2-5,13H,6-11H2,1H3,(H3,17,18);1H
